US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(pyrid-3-yl)thiazole-4-carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and 2-(pyrid-3-yl)thiazole-4-carboxylic acid using method D. NMR; δH CDCl3 9.26,(1H, b), 9.24,(1H, d), 8.73,(1H, d), 8.28,(2H, m), 7.85,(2H, d), 7.72,(1H, dd), 7.60,(1H, d), 7.47-7.44,(3H, m), 7.32,(1H, d), 6.29,(1H, t), 3.36,(2H, m), 2.26,(3H, s), 1.10,(1H, m), 0.59,(2H, m), 0.31,(2H, m). LCMS: retention time 3.36 min, MH+469.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-(pyrid-3-yl)thiazole-4-carboxylic acid | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(pyrid-3-yl)thiazole-4-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C=1N=C(SC1)C=1C=NC=CC1 | C27H24N4O2S
